US06316438B1
4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester
(1-Ethylpyrazol-5-ylamino)methylenemalonate diethyl ester (10.0 g, 42.6 mmol) was dissolved in phosphorus oxychloride (50 mL). This solution was heated at reflux for 10 h before the phosphorus oxychloride was removed via evaporation under reduced pressure. The resulting brown residue was diluted with EtOH (5 mL) and extracted with hot hexane (200 mL×3). The combined organic layers were evaporated under reduced pressure to afford the title compound as an oil which formed light green needle shaped crystals upon standing at room temperature (5.4 g, 21.3 mmol, 50% yield). This material is identical to the one obtained in Preparation 3 (1H NMR, 13C, MS, and HPLC).

reactant | (1-Ethylpyrazol-5-ylamino)methylenemalonate diethyl ester | 42.6 mmol, 10.0 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1CC)=O | C13H19N3O4
reactant | phosphorus oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 50% yield | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C11H12ClN3O2
